* simple circuit
v1 1 0 dc 0 ac 1V pulse 0 5V 1s 1s 1s 5s 12s
r1 1 2 2
r2 2 0 3
c2 2 0 1m
.tran 1s 13s
.ac dec 10 1Hz 100kHz
.print tran v1#branch
.print ac v(2)
   
.control
op
write op.raw
.endc
.end
